US06525049B2
A suspension of N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (800 mg), PdCl2(PPh3)2 (104.6 mg), CuI (34.1 mg), 4-pentyn-1-ol (0.17 mL), and Et3N (0.42 mL) in CHCl3 (14.9 mL) is stirred at room temperature overnight. Reaction condensed to remove CHCl3. The solvent is replaced with EtOH (15 mL) and additional Et3N (0.38 mL) is added to the reaction mixture. N2 is passed over the surface and the reaction is heated at 76° C. for 6 h, then allowed to cool to room temperature. Reaction mixture is condensed, adsorbed onto silica, and chromatographed eluting with 1% MeOH in CH2Cl2 to 3% MeOH in CH2Cl2. Product-containing fractions are combined, condensed, and recrystallized from hot acetonitrile to afford 408.9 mg (56%) of N-(4-chlorobenzyl)-2-(3-hydroxypropyl)-8-(4-morpholinylmethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide as a yellow solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 800 mg | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CN2CCOCC2)I)C=C1 | C22H21ClIN3O3
reactant | 4-pentyn-1-ol | 0.17 mL | C(CCC#C)O | C5H8O
reactant | Et3N | 0.42 mL | CCN(CC)CC | C6H15N
solvent | CHCl3 | 14.9 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | PdCl2(PPh3)2 | 104.6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 34.1 mg | [Cu]I
product | N-(4-chlorobenzyl)-2-(3-hydroxypropyl)-8-(4-morpholinylmethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide | 408.9 mg, 56% | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)CN2CCOCC2)C=C3CCCO)C=C1 | C27H28ClN3O4
